US09359381B2
Step 5: 1-((tert-Butyldimethylsilyl)oxy)-3-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)propan-2-yl methanesulfonate
Methanesulfonic anhydride (0.679 g, 3.90 mmol) in 1,2-dichloroethane (3.0 mL) was added dropwise to a solution of DMAP (0.016 g, 0.130 mmol), triethylamine (0.544 ml, 3.90 mmol) and 6-(3-((tert-butyldimethylsilyl)oxy)-2-hydroxypropyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (0.6 g, 1.300 mmol) in 1,2-dichloroethane (10 mL) at 0° C. The mixture was warmed to room temperature and stirred for 2 hours, then diluted with water (10 mL). The phases were separated and the aqueous phase was extracted with DCM (3×10 mL). The combined organic extracts were dried over magnesium sulfate and evaporated under vacuum to afford the title compound.

reactant | Methanesulfonic anhydride | 3.90 mmol, 0.679 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 3.90 mmol, 0.544 ml | C(C)N(CC)CC | C6H15N
reactant | 6-(3-((tert-butyldimethylsilyl)oxy)-2-hydroxypropyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 1.300 mmol, 0.6 g | [Si](C)(C)(C(C)(C)C)OCC(CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C)O | C23H32FN3O4Si
solvent | 1,2-dichloroethane | 3.0 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 0.130 mmol, 0.016 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | water | 10 mL | O | H2O
product | 1-((tert-Butyldimethylsilyl)oxy)-3-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)propan-2-yl methanesulfonate | CS(=O)(=O)OC(CO[Si](C)(C)C(C)(C)C)CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C | C24H34FN3O6SSi
